US07838499B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(2-(difluoromethoxy)ethyl)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound BN)
(2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-3-(4-(2-(difluoromethoxy)ethyl)benzyl)phenyl)tetrahydro-2H-pyran (intermediate BM) was taken up in a mixture of 4:1 methanol:tetrahydrofuran (0.5 mL) and 9.6 μL of 1,2-dichlorobenzene was added followed by palladium on charcoal (10%, 5 mg). The mixture was stirred at room temperature under a hydrogen balloon for 30 min. The mixture was passed through a short Celite® pad to remove the catalyst, and the pad was washed with methanol (1 mL). Solvent was evaporated and the product was purified by TLC using 8:1 dichloromethane:methanol to obtain compound BN (2.5 mg, yield 64%). 1H NMR (300 MHz, CDCl3): δ 7-33-7.11 (m, 7H), 6.30 (t, JC-F=75.6 Hz, 1H), 4.13 (d, J=9 Hz, 1H), 4.04 (m, 4H), 3.86-3.80 (m, 3H), 3.64 (t, J=4.5, 6.6 Hz, 2H), 3.47-3.41 (m, 2H), 2.90 (t, J=6.9, 7.2 Hz, 2H); LC-ESI-MS (m/z): 457 (M−H).

reactant | (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-3-(4-(2-(difluoromethoxy)ethyl)benzyl)phenyl)tetrahydro-2H-pyran | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CCOC(F)F)COCC1=CC=CC=C1 | C50H49ClF2O6
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 5 mg | [Pd] | Pd
solvent | 1,2-dichlorobenzene | 9.6 μL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-(2-(difluoromethoxy)ethyl)benzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | yield 64% | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC=C(C=C1)CCOC(F)F | C22H25ClF2O6
